US07829556B2
6-(2-Nitro-phenyl)-3-[1,2,4]triazol-1-ylmethyl-imidazo[2,1-b]thiazole (54 g, 165 mmol) was dissolved in ethanol (2.0 L). Pd/C (10%, 20 g) was added, and the flask was evacuated and backfilled with H2. The reaction mixture was stirred under H2 at room temperature (2 days). The reaction mixture was then passed through a silica gel pad, and the filtrate was concentrated in vacuo to give a yellow solid. The solid was washed with ethanol to give 2-(3-[1,2,4]triazol-1-ylmethyl-imidazo[2,1-b]thiazol-6-yl)-phenylamine as a yellow solid (46 g, 94% yield).

reactant | 6-(2-Nitro-phenyl)-3-[1,2,4]triazol-1-ylmethyl-imidazo[2,1-b]thiazole | 165 mmol, 54 g | [N+](=O)([O-])C1=C(C=CC=C1)C=1N=C2SC=C(N2C1)CN1N=CN=C1 | C14H10N6O2S
solvent | ethanol | 2.0 L | C(C)O | C2H6O
catalyst | Pd/C | 20 g | [Pd] | Pd
product | 2-(3-[1,2,4]triazol-1-ylmethyl-imidazo[2,1-b]thiazol-6-yl)-phenylamine | 46 g, 94% yield | N1(N=CN=C1)CC=1N2C(SC1)=NC(=C2)C2=C(C=CC=C2)N | C14H12N6S
